US04582841
In a manner analogous to that described in Example 24 starting from 7.5 g (0.025 mol) of 3-allyl-5-hydroxy-2-[[3-methyl-4-oxo-2-thiazolidinylidene]-hydrazono]-4-thiazolidinone, 7.8 g (0.05 mol) of 2-chloro-3-methyl-1,3,2-oxazaphospholidine-2-oxide and 4.53 ml (0.0325 mol) of triethylamine in 50 ml of methylene chloride there is obtained 2-[3-allyl-2-[[3-methyl-4-oxo-2-thiazolidinylidene]-hydrazono]-4-oxo-5-thiazol-idinoxy]-3-methyl-2-oxo-1,3,2-oxazaphospholidine having a melting point of 184°-185°.

reactant | 3-allyl-5-hydroxy-2-[[3-methyl-4-oxo-2-thiazolidinylidene]-hydrazono]-4-thiazolidinone | 0.025 mol, 7.5 g | C(C=C)N1C(SC(C1=O)O)=NN=C1SCC(N1C)=O | C10H12N4O3S2
reactant | 2-chloro-3-methyl-1,3,2-oxazaphospholidine-2-oxide | 0.05 mol, 7.8 g | ClP1(OCCN1C)=O | C3H7ClNO2P
reactant | triethylamine | 0.0325 mol, 4.53 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-allyl-2-[[3-methyl-4-oxo-2-thiazolidinylidene]-hydrazono]-4-oxo-5-thiazol-idinoxy]-3-methyl-2-oxo-1,3,2-oxazaphospholidine | C(C=C)N1C(SC(C1=O)OP1(OCCN1C)=O)=NN=C1SCC(N1C)=O | C13H18N5O5PS2
